US04658037
5-Fluoro-2-oxindole
To a stirred solution of 11.1 g (0.1 mol) of 4-fluoroaniline in 200 ml of dichloromethane, at -60° to -65° C., was added, dropwise, a solution of 10.8 g (0.1 mol) of t-butyl hypochlorite in 25 ml of dichloromethane. Stirring was continued for 10 minutes at -60° to -65° C., and then was added, dropwise, a solution of 13.4 g (0.1 mol) of ethyl 2-(methylthio)acetate in 25 ml of dichloromethane. Stirring was continued at -60° C. for 1 hour and then was added, dropwise, at -60° to -65° C., a solution of 11.1 g (0.11 mol) of triethylamine in 25 ml of dichloromethane. The cooling bath was removed, and when the reaction mixture had warmed to room temperature, 100 ml of water was added. The phases were separated, and the organic phase was washed with saturated sodium chloride solution, dried (Na2SO4) and evaporated in vacuo. The residue was dissolved in 350 ml of diethyl ether, to which was added 40 ml of 2N hydrochloric acid. This mixture was stirred at room temperature overnight. The phases were separated and the ether phase was washed

reactant | 4-fluoroaniline | 0.1 mol, 11.1 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | t-butyl hypochlorite | 0.1 mol, 10.8 g | ClOC(C)(C)C | C4H9ClO
reactant | ethyl 2-(methylthio)acetate | 0.1 mol, 13.4 g | CSCC(=O)OCC | C5H10O2S
reactant | triethylamine | 0.11 mol, 11.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 5-Fluoro-2-oxindole | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
